data/specific_train_final.csv
"[H:20][C:21](=O)C1(C(O1)(C)C=CC(=O)C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC(=O)C=CC1(C(O1)(C)[C:21]=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:21](=[CH:20][O:10][O:11]N=O)CO[N+](=O)[O-]>>C[C:21](CO[N+](=O)[O-])[CH:20]=[O:10].N(=O)[O:11] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].C1C(O1)O[O:10]>>[H:20][O:10]OC1CO1.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:8][C:5]([CH2:6][OH:7])([CH:9]=[CH2:10])[O:4][O:3][N:2]=[O:1]>>[CH3:8][C:5]([CH2:6][OH:7])([CH:9]=[CH2:10])[O:4].[N:2](=[O:1])[O:3] 3,4-3; 3,4-4",Room Temperature,Initiation,homolyze
"C[CH:20]=[CH2:21].[N+](=O)([O-])[O:10]>>C[CH:20]([CH2:21])[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:1][C:2]([H:16])([CH:3]([C:5]([CH3:12])([CH2:6][O:7][N+:8](=[O:10])[O-:9])[OH:11])[O:4])[O:13][O:14][H:15]>>[H:1][C:2]([H:16])[O:13][O:14][H:15].[CH3:12][C:5]([CH2:6][O:7][N+:8](=[O:10])[O-:9])([CH:3]=[O:4])[OH:11] 4-4,3; 2,3-4,3; 2,3-2",Room Temperature,Propagation,retroaddition
"[CH3:10][CH2:9][CH2:8][CH:7]([CH2:11][OH:12])[O:6][O:5][O:4][N+:2](=[O:1])[O-:3]>>[CH3:10][CH2:9][CH2:8][CH:7]([CH2:11][OH:12])[O:6][O:5][O:4].[N+:2](=[O:1])[O-:3] 4,2-2; 4,2-4",Room Temperature,Initiation,homolyze
"CCCC([CH:10]C)O.[O:20][O]>>CCCC([CH:10](C)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)CCC(C)O[O:20].[N:10]=O>>CC(C)CCC(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C(C)O[N+](=O)[O-])[O:20][O:21][O]>>CCC(C(C)O[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C[O:20][O:21]N=O)C(C)O>>CC(C[O:20])C(C)O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCC(CO[N+](=O)[O-])O[O:20].[N:10]=O>>CCCCC(CO[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:21]1=[CH:20]C(=CC=C1)C.[OH:10]>>C[C:21]1C=CC=C([CH:20]1[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(C(C[O:21][O:20][O])O[N+](=O)[O-])O.[N+](=O)[O-]>>CC(C)(C(C[O:21])O[N+](=O)[O-])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(O[O:20])(Cl)Cl)(O)Cl.[N+](=O)([O-])[O:10]>>C(C(O[O:20][O:10][N+](=O)[O-])(Cl)Cl)(O)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2]1=[C:3]([CH:5]=[CH:6][C:7]([CH:11]1[OH:12])([CH3:8])[O:9][O:10])[OH:4]>>[CH3:8][C:7]12[CH:6]=[CH:5][C:3]([C:2]([CH:11]1[OH:12])([O:10][O:9]2)[CH3:1])[OH:4] 10-10,2; 2,3-10,2; 2,3-3",Room Temperature,Propagation,addition
"[CH3:11][CH2:10][CH:9]([CH:7]([CH3:8])[O:6][O:5][O:4][N+:2](=[O:1])[O-:3])[OH:12]>>[CH3:11][CH2:10][CH:9]([CH:7]([CH3:8])[O:6][O:5][O:4])[OH:12].[N+:2](=[O:1])[O-:3] 4,2-2; 4,2-4",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(CO)O[O:10]>>[H:20][O:10]OC(C)CO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:21](=O)C1(C(O1)C(=CC(=O)CC)C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC(=O)C=C(C)C1C(O1)(C)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:21](=O)C1C(O1)(C)/C=C\C(=O)C.[OH:10]>>[H:20][OH:10].CC(=O)/C=C\C1(C(O1)[C:21]=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=O)OC(C)(C)C[O:20][O:21]N=O>>CC(=O)OC(C)(C)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C1CCC(=CC1)CO)[O:20][O:21]N=O>>CC(C)(C1CCC(=CC1)CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].COC(CO)O[O:10]>>[H:20][O:10]OC(CO)OC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:9][O:10][N+:11](=[O:13])[O-:12])[O:8].[N+:15](=[O:16])[O-:14]>>[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:9][O:10][N+:11](=[O:13])[O-:12])[O:8][N+:15](=[O:16])[O-:14] 15-15,8; 8-15,8",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC12C=CC(C(C1(C)O)(OO2)C)O[O:10]>>[H:20][O:10]OC1C=CC2(C(C1(OO2)C)(C)O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO[N+](=O)[O-])(C(C=O)O[O:20])O.[N:10]=O>>CC(CO[N+](=O)[O-])(C(C=O)O[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)OC(C)COO[O:20][N+:21](=O)[O-]>>CC(C)OC(C)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)(C)CO[O:20].[N+](=O)([O-])[O:10]>>CCC(C)(C)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:10]OC=O.N(=O)[O].[O:20][O]>>[CH2:10](OC=O)[O:20][O].N(=O)[O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO)C(C)[O:20][O:21]N=O>>CC(CO)C(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
